US07960552B2
A solution of methyl 6-[4-({[3-(2,4-dimethyl-3-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (20 mg, 0.04 mmol) in THF (0.4 mL) was placed in a microwave reaction tube followed by methanol (0.20 mL) followed by a 1 N solution of sodium hydroxide (0.08 mL, 0.08 mmol). The tube was sealed and heated to 100° C. for 10 minutes. The solution was neutralized with 1 N HCl and concentrated. The residue was diluted with water and filtered. The resulting solid was dried with P2O5 in a 45° C. vacuum oven under reduced pressure to yield 6-[4-({[3-(2,4-dimethyl-3-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid (17 mg, 86%). 1H NMR (400 MHz, DMSO-d6): δ 13.5-13.2 (br s, 1H), 8.53 (d, J=9 Hz, 1H), 8.38 (d, J=5 Hz, 1H), 8.27 (s, 1H), 8.17-8.08 (m, 3H), 7.74 (d, J=9 Hz, 2H), 7.22 (d, J=5 Hz, 1H), 7.22 (d, J=9 Hz, 2H), 4.79 (s, 2H), 3.47 (septet, J=7 Hz, 1H), 2.24 (s, 3H), 2.08 (s, 3H), 1.33 (d, J=7 Hz, 6H). ESI-LCMS m/z 494 (M+H)+.

reactant | methyl 6-[4-({[3-(2,4-dimethyl-3-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.04 mmol, 20 mg | CC1=NC=CC(=C1C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C)C | C31H29N3O4
reactant | methanol | 0.20 mL | CO | CH4O
reactant | sodium hydroxide | 0.08 mmol, 0.08 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | 6-[4-({[3-(2,4-dimethyl-3-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 17 mg, 86% | CC1=NC=CC(=C1C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C)C | C30H27N3O4
